US08253898B2
The composition below was prepared, filtered through a polypropylene filter having a pore size of 0.2 μm, and the filtrate was used as coating liquids LC-2 for forming the optically anisotropic layer. LC-2-1 was synthesized according to a method described in Japanese Laid-Open Patent Publication “Tokkaihei” No. 2001-166147. LC-2-2 was synthesized by dissolving a commercial hydroxyethyl methacrylate, acrylic acid, and M5610 (product of Daikin Industries, Ltd.) in a ratio by weight of 15/5/80 into methyl ethyl ketone (concentration 40%), and the mixture was allowed to polymerize using V-601 (product of Wako Pure Chemical Industries, Ltd.) as a polymerization initiator. LC-2-3 was synthesized by first introducing octyloxybenzoic acid (product of Kanto Chemical Co., Inc.) into an excessive hydroquinone (product of Wako Pure Chemical Industries, Ltd.) based on the mixed acid anhydride process so as to obtain monoacyl phenol compound. Next, methyl p-hydroxybenzoate was converted to a hydroxyl ethyl compound using ethylene carbonate, the resultant ester is hydrolyzed, and brominated with hydrobromic acid to obtain 2-bromoethyloxybenzoic acid. Two these compounds were then esterified by the mixed acid anhydride process to obtain a diester compound, and the product was then converted to a quaternary compound using dimethylaminopyridine, to thereby obtain LC-2-3 as an onium salt.

reactant | methyl p-hydroxybenzoate | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
reactant | hydrobromic acid | Br | BrH
product | 2-bromoethyloxybenzoic acid | BrCCOC1=C(C(=O)O)C=CC=C1 | C9H9BrO3
